US08895744B2
2-(1H-pyrrol-2-yl)-9H-pyrido[2,3-b]indole (R355)
At room temperature and under an inert atmosphere, Pd(PPh3)4 (0.08 equiv.), boronic acid (1.1 equiv.), and a 0.3 M solution of K2CO3 (3 equiv.) in H2O were added to a 0.1M solution of 2-chloro-α-carboline in anhydrous 1,4-dioxane. This solution was stirred at 100° C. for 12 h. After cooling to room temperature, the solution was filtered through celite and solvents were removed under reduced pressure. A solution of crude product in CH2Cl2 (3.5 mL) was stirred under argon and treated with CF3CO2H (1 mL). After 90 min at room temperature, the resulting mixture was then cautiously quenched at 0° C. with H2O and a saturated aqueous NaHCO3 was added until pH 10. The solution was diluted with CH2Cl2, washed with H2O, dried with MgSO4, filtered and concentrated. The product was purified by column chromatography on silica gel (CH2Cl2) to afford R355 in 10% yield as a yellow solid. 1H-NMR (300 MHz, CDCl3): δ 9.90 (bs, 1H), 8.89 (bs, NH), 8.28 (d, 1H, J=8.0 Hz), 7.98 (d, 1H, J=8.0 Hz), 7.51 (d, 1H, J=8.1 Hz), 7.43-7.40 (m, 1H); 7.33-7.27 (m, 2H), 6.97 (s, 1H), 6.85 (s, 1H), 6.34 (dd, 1H, J=2.6, 5.5 Hz).

reactant | boronic acid | 1.1 equiv. | B(O)O | BH3O2
reactant | K2CO3 | 3 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-α-carboline | C1=CC=C2C(=C1)C3=C(N2)N=C(C=C3)Cl | C11H7ClN2
solvent | H2O | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.08 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(1H-pyrrol-2-yl)-9H-pyrido[2,3-b]indole | 10% yield | N1C(=CC=C1)C=1C=CC2=C(NC3=CC=CC=C23)N1 | C15H11N3
